US08877801B2
To a microwave vial, 3-(4-bromophenoxy)-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene (50 mg, 0.113 mmol) was dissolved in DMF (2 mL) and triethyl amine (0.474 mL, 3.40 mmol). To the solution was added tert-butyl 4-vinyl-1H-imidazole-1-carboxylate (66.0 mg, 0.340 mmol) and Pd(PPh3)2Cl2 (7.95 mg, 0.011 mmol). The system was flushed with nitrogen and heated at 150° C. for 1 h under microwave radiation. The mixture was cooled to room temperature and diluted with DCM and sat. NH4Cl. The organic layer was collected (phase separator) and concentrated onto silica gel and the material was purified by column chromatography (SiO2, 0-30% DCM/MeOH) to afford (E)-4-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)styryl)-1H-imidazole (41 mg, 0.090 mmol, 80% yield) as a white solid. 1H NMR (400 MHz, CD3OD) δ 8.78 (d, J=1.52 Hz, 1H), 7.51-7.62 (m, 2H), 7.46-7.51 (m, 1H), 7.39 (d, J=9.09 Hz, 2H), 7.32 (d, J=2.53 Hz, 1H), 7.15 (d, J=9.09 Hz, 1H), 7.08 (d, J=16.67 Hz, 1H), 6.76-6.95 (m, 6H), 3.77 (s, 3H), 3.69 (s, 3H).

reactant | 3-(4-bromophenoxy)-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene | 0.113 mmol, 50 mg | BrC1=CC=C(OC=2C3=C(SC2C2=CC=C(C=C2)OC)C=C(C=C3)OC)C=C1 | C22H17BrO3S
reactant | triethyl amine | 3.40 mmol, 0.474 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-vinyl-1H-imidazole-1-carboxylate | 0.340 mmol, 66.0 mg | C(=C)C=1N=CN(C1)C(=O)OC(C)(C)C | C10H14N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.011 mmol, 7.95 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-4-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)styryl)-1H-imidazole | 0.090 mmol, 41 mg, 80% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(/C=C/C=3N=CNC3)C=C2)C2=CC=C(C=C2)OC)C1 | C27H22N2O3S
